US03953415
A solution of 12.5 g. (14 mmoles) of Z-28-31-OtBu in 250 ml. of methanol is hydrogenated for 0.5 hours in the presence of 1.8 g. of palladium-on-carbon. The catalyst is removed by filtration, and the filtrate is evaporated to dryness. The solid residue is triturated with n-hexane, and the mixture is filtered. 10.09 g. (95 %) of H-28-31-OtBu are obtained. M.p.: 130°-140° C, Rf11 = 0.25.

reactant | Z-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu | 14 mmoles | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C45H72N4O14
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | H-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu | 95 % | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C | C37H66N4O12
